US20010053785A1
2-[4′-(2-Butyl-benzofuran-3-yl)-biphenyl4-yloxy]-3-phenyl-propionic acid
The title compound was prepared from 4′-(2-butyl-benzofuran-3-yl)-biphenyl-4-ol, and 3-phenyllactic acid methyl ester, in substantially the same manner, as described in Example 1, steps g-h , and was obtained as a white solid, mp 169-170° C.; MS m/e 491 (M+H)+;

reactant | 4′-(2-butyl-benzofuran-3-yl)-biphenyl-4-ol | C(CCC)C=1OC2=C(C1C1=CC=C(C=C1)C1=CC=C(C=C1)O)C=CC=C2 | C24H22O2
reactant | 3-phenyllactic acid methyl ester | COC(C(O)CC1=CC=CC=C1)=O | C10H12O3
product | 2-[4′-(2-Butyl-benzofuran-3-yl)-biphenyl4-yloxy]-3-phenyl-propionic acid | C(CCC)C=1OC2=C(C1C1=CC=C(C=C1)C1=CC=C(C=C1)OC(C(=O)O)CC1=CC=CC=C1)C=CC=C2 | C33H30O4
